Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Compazine
 
Attending: ___
 
Chief Complaint:
heavy vaginal bleeding after hysterectomy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ gravida 6, para 3, with a history of 
abnormal bleeding that failed medical
management and on ___, she underwent an exam under 
anesthesia, extensive lysis of adhesions, total laparoscopic 
hysterectomy with bilateral salpingectomies and cystoscopy.  She 
was seen by me on ___ for her two-week postoperative check. 
 At that time, her main complaint was abdominal bloatedness 
secondary to gas.  We discussed dietary modification.  At that 
time, she also had vaginal spotting to light bleeding and 
precautions were reviewed.

The patient noted that she was in her usual state of health 
until yesterday morning when she started bleeding like a heavy 
period, passing "munchin" sized clots.  She did not call 
yesterday because she was entertaining her family, although she 
did note that when she started bleeding more heavily, she did 
rest.  The patient does have four small children at home and she 
was negotiating whether she could make it through the ___ 
events; however, she started passing more clots and presents
today.

Her preoperative hematocrit was 40.1.  Today's hematocrit is 
38.1.  Patient denies any symptoms related to acute blood loss 
anemia.

 
Past Medical History:
OB/GYN HISTORY:  Menarche at 12.  Last Pap was ___
and was normal.  She does have a history of abnormal Paps.  ___, she had laser therapy, history of genital warts.  She 
is
heterosexual, sexually active with her present husband.  She has
had three cesarean deliveries, two spontaneous losses, history 
of
a ruptured ectopic pregnancy.

Of note, in reference to her history of abnormal Paps, on
___ pathology showed secretory endometrium, adenomyosis,
adenoma 1.0 cm, unremarkable cervix, bilateral fallopian tubes
with paratubal cyst.

PAST MEDICAL HISTORY:  Significant for menorrhagia, history of
abnormal Pap, hypothyroidism, ADHD.

SURGICAL HISTORY:  
___ EUA, total laparoscopic hysterectomy, bilateral
salpingectomies, extensive lysis of adhesion, cystoscopy.  
___, cesarean delivery.  
___ cesarean delivery.  
___ adhesiolysis.  
___ IUD, perforation of uterus, also had adhesiolysis.  
___, cesarean section.  
___, ruptured ectopic pregnancy, salpingectomy.
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 01:10PM   WBC-8.7 RBC-4.75 HGB-12.6 HCT-38.1 MCV-80* 
MCH-26.5 MCHC-33.1 RDW-13.3 RDWSD-38.2
___ 01:10PM   PLT COUNT-434*
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
for observation of heavy vaginal bleeding after total 
laparoscopic hysterectomy, bilateral salpingectomy, and 
cystoscopy on ___. Please see the operative report for full 
details.

Upon examination in clinic on ___, there was no evidence of 
cuff dehiscence. A small vessel was cauterized. She had a PUS 
which revealed a normal vaginal cuff without evidence of a 
hematoma. Her hct was found to be 38, stable from preoperative 
hct of 40. Over the course of her stay, her bleeding gradually 
decreased, noting small clots. She remained hemodynamically 
stable throughout her hospitalization. She continued to tolerate 
a regular diet and was voiding without issues. Her pain was 
controlled with PO oxycodone, ibuprofen, and tylenol. For her 
history of hypothyroidism she was continued on Levothyroxine. 
For her history of ADHD, she was continued on Venlafaxine and 
Adderall. 

By hospital day 2, her bleeding had improved significantly and 
she was tolerating a regular diet, voiding spontaneously, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.
 
Medications on Admission:
Synthroid 50mcg QD
Venlafaxine ER 75mg QD
Adderall 10mg BID
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Heavy vaginal bleeding after total laparoscopic hysterectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for observation of 
your vaginal bleeding. Your bleeding has stopped and your blood 
count has remained stable. The team believes you are ready to be 
discharged home. Please call Dr. ___ office with any 
questions or concerns. Please follow the instructions below.

* Please follow up with ___ at the appointment 
listed below. 
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___